US08420816B2
Step B: 4-Formyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
Lithium chloride (358 mg, 8.45 mmol) and lithium formate monohydrate (591 mg, 8.45 mmol) were combined in a dry sealable tube under nitrogen. DMF (12 mL), 3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde (1.2 g, 2.82 mmol), acetic anhydride (532 mL, 5.63 mmol) and palladium acetate (63 mg, 0.28 mmol) were added. DIPEA (981 μL) was added, and the reaction tube was sealed and heated at 56° C. for 4 h. The reaction mixture was taken up in MeOH/DCM (20%) and filtered to remove the insoluble black carbon material. The yellow solution was concentrated in vacuo, dissolved in MeOH/DCM (10%), and washed with aqueous HCl (0.1N). The aqueous layer was extracted twice with MeOH/DCM (10%). The organics were combined, dried over MgSO4, and concentrated in vacuo. Purification by silica gel chromatography (10-15% MeOH/DCM) gave the title compound as a tan solid (866 mg, 89%). 1H NMR (500 MHz, DMSO-d6) δ 2.35 (s, 3H), 7.45 (d, J=8.5 Hz, 2H), 7.62 (d, J=5.0 Hz, 1H), 8.11 (d, J=8.5 Hz, 2H), 8.58-8.62 (m, 2H), 11.02 (s, 1H), 13.20 (br s, 1H). [M+H] calc'd for C16H12N2O5S, 345; found, 345.

reactant | Lithium chloride | 8.45 mmol, 358 mg | [Cl-].[Li+]
reactant | lithium formate monohydrate | 8.45 mmol, 591 mg | O.C(=O)[O-].[Li+]
reactant | 3-iodo-1-tosyl-1H-pyrrolo[2,3-b]pyridine-4-carbaldehyde | 2.82 mmol, 1.2 g | IC1=CN(C=2N=CC=C(C21)C=O)S(=O)(=O)C2=CC=C(C)C=C2 | C15H11IN2O3S
reactant | acetic anhydride | 5.63 mmol, 532 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | DIPEA | 981 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | MeOH DCM | CO.C(Cl)Cl
catalyst | palladium acetate | 0.28 mmol, 63 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
product | 4-Formyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 866 mg, 89% | C(=O)C1=C2C(=NC=C1)N(C=C2C(=O)O)S(=O)(=O)C2=CC=C(C)C=C2 | C16H12N2O5S
